US05616586
8-Bromo-5-carbamoylmethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione
To a solution of 8-bromo-5-carboxymethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione (100 mg, 0.308 mmol)in DMF (2 mL)in the presence of triethylamine (64 μL, 0.461 mmol) was added isobutyl chloroformate (44 μL, 0.338 mmol) at -20° C. After being stirred for 10 min, aqueous 28% ammonia (94 μL, 1.538 mmol) was added at -20° C. The stirring was continued for 30 min at room temperature and 0.1N hydrochloric acid (20 mL) was added. The precipitates formed were collected by filtration, washed with water, and again suspended in aqueous sodium bicarbonate. The suspension was adjusted to pH 7.0 by addition of 1N hydrochloric acid and extracted with 2:1 ethyl acetate/THF. The organic layer was washed with brine, dried over magnesium chloride, and concentrated. The residual solids were rinsed with dichloromethane to give 14 mg of the title compound (14%): mp>300° C.; 1H NMR (270 MHz, DMSO-d6) δ12.10 (bs, 1H), 7.66 (s, 1H), 7.29 (s, 1H), 7.17 (s, 2H), 5.04~5.10 (m, 1H), 2.80 (dm, 1H, J=18 Hz), 2.58 (dm, 1H, J=14 Hz), 2.41 (m, 1H, J=14 Hz), 1.85~2.00 (m, 1H).

reactant | 8-bromo-5-carboxymethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 0.308 mmol, 100 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CC(=O)O | C12H9BrN2O4
reactant | triethylamine | 0.461 mmol, 64 μL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.338 mmol, 44 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 1.538 mmol, 94 μL | N | H3N
reactant | hydrochloric acid | 0.1N, 20 mL | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-5-carbamoylmethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 14 mg, 14% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CC(N)=O | C12H10BrN3O3
